US08791134B2
4-Nitrosotetrahydro-2H-pyran-4-yl pivalate was prepared from tetrahydro-pyran-4-one oxime, lead tetraacetate and trimethylacetic acid using conditions of General Method 3. 1H NMR (360 MHz, chloroform-d) δ 3.91-4.14 (2H, m), 3.57-3.77 (2H, m), 2.10-2.29 (2H, m), 1.75-1.93 (2H, m), 1.34 (9H, s).

reactant | tetrahydro-pyran-4-one oxime | O1CCC(CC1)=NO | C5H9NO2
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | trimethylacetic acid | CC(C(=O)O)(C)C | C5H10O2
product | 4-Nitrosotetrahydro-2H-pyran-4-yl pivalate | C(C(C)(C)C)(=O)OC1(CCOCC1)N=O | C10H17NO4
